US04211783
4-Aminobenzonitrile (11.8 g.) and 10-(4-methoxyphenyl)decylbromide (16.3 g.) are dissolved in hexamethylphosphoramide (100 ml.) and heated under nitrogen in an oil bath maintained at 120° C. for 22 hours. The reaction mixture is cooled to room temperature and water (100 ml.) is added gradually. The mixture is then chilled in an ice bath. The precipitate separated is filtered, washed thoroughly with water, and dried. It is then washed repeatedly with hexane and dried. Recrystallization from ether-hexane affords 4-[10-(4-methoxyphenyl)decylamino]benzonitrile as pale yellow crystals.

reactant | 4-Aminobenzonitrile | 11.8 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | 10-(4-methoxyphenyl)decylbromide | 16.3 g | COC1=CC=C(C=C1)CCCCCCCCCCBr | C17H27BrO
reactant | water | 100 ml | O | H2O
solvent | hexamethylphosphoramide | 100 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 4-[10-(4-methoxyphenyl)decylamino]benzonitrile | COC1=CC=C(C=C1)CCCCCCCCCCNC1=CC=C(C#N)C=C1 | C24H32N2O
